US05017705
A solution of 40.0 g (0.137 mole) of phenyl 4-cyano-2,2,4-trichlorobutyrate and 190 ml of anhydrous sulfolane in a glass lined pressure reactor was cooled to 0° C. in an ice-water bath, and charged with dry HCl gas (28 g) at 5° C. by passing dry HCl gas therethrough. The reactor was closed and the reaction mixture heated with stirring at 125° C. for 5 hours. After cooling to ambient temperature, the HCl gas was vented off and a clear brown solution was obtained. GLC analysis of the resulting solution indicated a yield of 78% (±1%) of 3,5,6-trichloropyridin-2-ol. The solution was poured into water and extracted with several portions of methyl t-butyl ether. The combined extract was washed with water and then stirred for 1 hour with 150 ml of aqueous 13% sodium carbonate solution. A white solid formed in the aqueous phase and was filtered off, washed with methyl t-butyl ether and dried to give 23.0 g of 3,5,6-trichloropyridin-2-ol sodium salt. By acidifying the above sodium salt with dilute aqueous HCl, it was quantitatively converted into a white powder consisting of 3,5,6-trichloropyridin-2-ol, m.p. 170°-171° C. This substance was found to be identical in all respects with an authentic sample of the material.

reactant | phenyl 4-cyano-2,2,4-trichlorobutyrate | 0.137 mole, 40.0 g | C(#N)C(CC(C(=O)OC1=CC=CC=C1)(Cl)Cl)Cl | C11H8Cl3NO2
reactant | HCl | 28 g | Cl | ClH
solvent | sulfolane | 190 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3,5,6-trichloropyridin-2-ol | yield of 78% | ClC=1C(=NC(=C(C1)Cl)Cl)O | C5H2Cl3NO
